US07678921B2
20 ml of dichloromethane and 10 ml of 2N aqueous NaOH were added into 1.8 g of (R)-(+)-amlodipine-D-(−)-tartrate, then reacted for 30 minutes under stirring. The solution was kept standing until organic phase is separated out. The organic phase was dried by adding anhydrous sodium carbonate and then filtered. The filter cake was washed with small amount of dichloromethane. The filter solution together with the washed dichloromethane were concentrated under reduced pressure, then crystallized under stirring and filtered following by adding n-hexane. The crystal thus obtained was dried under vacuum overnight to give 1.3 g of (R)-(+)-amlodipine Enantiomeric excess (ee) determinated by chiral column HPLC is 98.8% and yield is 52%.

reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
reactant | (R)-(+)-amlodipine D-(−)-tartrate | 1.8 g | CCOC(=O)C1=C(NC(=C([C@H]1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN.C(=O)([O-])[C@@H](O)[C@H](O)C(=O)[O-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-(+)-amlodipine | 1.3 g, yield is 52% | CCOC(=O)C1=C(NC(=C([C@H]1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
